US08207177B2
Step e: O-[(4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate
(4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-ol (4.00 g, 8.02 mmol) was dissolved in DCM (169 mL) under an atmosphere of argon and 4-(dimethylamino)-pyridine (2.94 g, 24.1 mmol) was added followed by phenyl chlorothionocarbonate (2.22 mL, 16.0 mmol). The mixture was stirred at rt for 1 hour. The solvent was concentrated in vacuo and purified via silica gel chromatography eluting with a gradient of 20 to 100% EtOAc in hexanes on a column pre-treated with 1% TEA in hexanes to afford the title compound (5.00 g, 99%). LC/MS: Rt=2.34 min, ES+ 636 (AA standard).

reactant | (4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-ol | 8.02 mmol, 4.00 g | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@@H]1[C@@H](OC(OC1)C1=CC=C(C=C1)OC)[C@H]2O | C29H30N4O4
reactant | phenyl chlorothionocarbonate | 16.0 mmol, 2.22 mL | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | DCM | 169 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)-pyridine | 24.1 mmol, 2.94 g | CN(C1=CC=NC=C1)C | C7H10N2
product | O-[(4aS,6R,7S,7aR)-6-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo-[2,3-d]pyrimidin-7-yl}-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate | 5.00 g, 99% | C(O[C@H]1[C@@H](C[C@@H]2[C@H]1OC(OC2)C2=CC=C(C=C2)OC)N2C=CC1=C2N=CN=C1N[C@H]1CCC2=CC=CC=C12)(OC1=CC=CC=C1)=S | C36H34N4O5S
